US09428499B2
To a stirred solution of N,N-dimethyl-2-(3-nitrophenyl)acetamide (1.6 g, 7.68 mmol) in methanol (20 ml) was added 10% Pd—C (0.327 g,) followed by slow addition of triethylsilane (12.3 ml, 77 mmol) at RT. Reaction was stirred at same temperature for 30 min. The reaction mixture was filtered through celite bed. The filtrate was concentrated to get 2-(3-aminophenyl)-N,N-dimethylacetamide (1.21 g, 88% yield).

reactant | N,N-dimethyl-2-(3-nitrophenyl)acetamide | 7.68 mmol, 1.6 g | CN(C(CC1=CC(=CC=C1)[N+](=O)[O-])=O)C | C10H12N2O3
reactant | triethylsilane | 77 mmol, 12.3 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd—C | 0.327 g | [Pd] | Pd
product | 2-(3-aminophenyl)-N,N-dimethylacetamide | 1.21 g, 88% yield | NC=1C=C(C=CC1)CC(=O)N(C)C | C10H14N2O
